US09340538B2
Step A: (2R,3S)-benzyl 4-benzyl-2-methyl-5-oxomorpholine-3-carboxylate
A mixture of (2R,3S)-4-benzyl-2-methyl-5-oxomorpholine-3-carboxylic acid (1.07 g, 4.25 mmol) (The compound was synthesized according to the procedure as described in Helvetica Chimica Acta, 87, 2004), (bromomethyl)benzene (0.87 g, 5.1 mmol) and potassium carbonate (1.16 g, 8.5 mmol) in acetonitrile (20 mL) was stirred at 65° C. for 6 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (PETROLEUM ETHER/EtOAc (V/V)=4/1) to give the title compound as colorless oil (1.23 g, 85%). The compound was characterized by the following spectroscopic data:

reactant | (2R,3S)-4-benzyl-2-methyl-5-oxomorpholine-3-carboxylic acid | 4.25 mmol, 1.07 g | C(C1=CC=CC=C1)N1[C@@H]([C@H](OCC1=O)C)C(=O)O | C13H15NO4
reactant | (bromomethyl)benzene | 5.1 mmol, 0.87 g | BrCC1=CC=CC=C1 | C7H7Br
reactant | potassium carbonate | 8.5 mmol, 1.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (2R,3S)-benzyl 4-benzyl-2-methyl-5-oxomorpholine-3-carboxylate | 1.23 g, 85% | C(C1=CC=CC=C1)N1[C@@H]([C@H](OCC1=O)C)C(=O)OCC1=CC=CC=C1 | C20H21NO4
